US08183246B2
3-(2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropoxy)propionic acid
Add 4.0 ml 4 N hydrogen chloride in dioxan to 500 mg (0.96 mmol) 3-(2-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropoxy)propionic acid tert.-butyl ester and stir for 16 h at RT. After concentrating the reaction solution by evaporation under vacuum, purify the residue by preparative RP-HPLC (gradient: water/acetonitrile). 249 mg (56% of theor.) of the desired product is obtained as (R,S/S,R) racemate.

reactant | hydrogen chloride | 4 N, 4.0 ml | Cl | ClH
reactant | 3-(2-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropoxy)propionic acid tert.-butyl ester | 0.96 mmol, 500 mg | C(C)(C)(C)OC(CCOC(C(C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)C)=O | C30H34N2O6
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 3-(2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropoxy)propionic acid | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OC(C(OCCC(=O)O)C)C)C2=CC=CC=C2 | C26H26N2O6
